US07932284B2
1-Ethyl-2-methyl-6-nitro-1H-indole (19, R1=CH2CH3, R2=CH3)
Cool a solution of 2-methyl-6-nitro-1H-indole, 18 (0.31 g, 1.76 mmol) in anhydrous DMF (5 mL) under inert atmosphere at 0° C. Add sodium hexamethyldisilazide (1.0M in THF, 1.9 mL, 1.9 mmol) and stir 5 minutes. Add iodoethane (filtered through basic alumina) (0.43 mL, 5.28 mmol), warm to ambient temperature, and stir 2 hours. Quench the reaction with saturated aqueous sodium bicarbonate, add ethyl acetate, and wash with saturated aqueous sodium bicarbonate followed by saturated aqueous brine. Dry the organic layer over sodium sulfate, filter, and concentrate in vacuo. Chromatograph over silica gel using hexanes/ethyl acetate (9:1) to afford the title compound, (0.36 g, 100%). 1H NMR (CDCl3, 300 MHz) δ 2.47 (s, 31), 4.18 (q, J=7.1 Hz, 2), 6.23 (s, 3H), 7.48 (d, J=8.8 Hz, 1H), 7.95 (dd, J=1.9, 8.6 Hz, 1H), 8.23 (d, J=1.9 Hz, 1H).

reactant | 2-methyl-6-nitro-1H-indole | CC=1NC2=CC(=CC=C2C1)[N+](=O)[O-] | C9H8N2O2
reactant | sodium hexamethyldisilazide | 1.9 mmol, 1.0M, 1.9 mL | C[Si]([N-][Si](C)(C)C)(C)C.[Na+]
reactant | iodoethane | 5.28 mmol, 0.43 mL | ICC | C2H5I
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 1-Ethyl-2-methyl-6-nitro-1H-indole | 0.36 g, 100% | C(C)N1C(=CC2=CC=C(C=C12)[N+](=O)[O-])C | C11H12N2O2
